US06696464B2
F) 3-Isopropyl-6-(4-phenyl-oxazol-5-yl)-[1,2,4]triazolo[4,3-a]pyridine
Isobutyric acid N′-[5-(4-phenyl-oxazol-5-yl)-pyridin-2-yl]-hydrazide (730 mg, 2.26 mmol) was taken up in phosphorous oxychloride (10 mL) and heated at 75° C. for 18 hours. The reaction was cooled with an ice bath, added to a beaker of water (50 mL), and the mixture was made basic by dropwise addition with 3 N sodium hydroxide. The basic mixture was extracted with ethyl acetate (3×); the combined organic layers were washed with brine, dried over sodium sulfate, filtered and the filtrate was concentrated in vacuo to a yellow oil. The residue was recrystallized from ethyl acetate/methanol (95/5) affording the title compound as yellow crystals (294 mg, 43%). The filtrate was purified by flash chromatography (eluting with ethyl acetate/methanol 97:3) to give more of the title compound (220 mg, 32%). LCMS (m/z) 305 M+1. 1H NMR (400 MHz, CDCl3) δ8.22 (s 1 H), 8.05 (s, 1 H), 7.84 (d, 1 H, J=9.8 Hz), 7.64-7.66 (m, 2 H), 7.44 7.49 (m, 4 H), 3.29-3.34 (m, 1 H), 1.51 (d, 6 H, J=7.2 Hz).

reactant | Isobutyric acid N′-[5-(4-phenyl-oxazol-5-yl)-pyridin-2-yl]-hydrazide | 2.26 mmol, 730 mg | C1(=CC=CC=C1)C=1N=COC1C=1C=CC(=NC1)NNC(C(C)C)=O | C18H18N4O2
reactant | water | 50 mL | O | H2O
reactant | sodium hydroxide | 3 N | [OH-].[Na+]
solvent | phosphorous oxychloride | 10 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 3-Isopropyl-6-(4-phenyl-oxazol-5-yl)-[1,2,4]triazolo[4,3-a]pyridine | 294 mg, 43% | C(C)(C)C1=NN=C2N1C=C(C=C2)C2=C(N=CO2)C2=CC=CC=C2 | C18H16N4O
